US07947691B2
3-Hydroxy-1H-thieno[2,3-d]pyrimidine-2,4-dione
2-Amino-thiophene-3-carboxylic acid ethyl ester was transformed to the O-protected intermediate 3-(2,4-Dimethoxy-benzyloxy)-1H-thieno[2,3-d]pyrimidine-2,4-dione using general procedure A1. Deprotection of this intermediate using general procedure D1 gave the title compound which was purified by mass triggered preparative HPLC. 1H NMR (DMSO-d6) δ 10.39 (bs, 1H), 7.16 (d, 1H, J=5.7 Hz), 7.12 (d, 1H, J=5.7 Hz); Electrospray MS: 183 (M−H); retention time: 1.25 min.

reactant | 2-Amino-thiophene-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(SC=C1)N | C7H9NO2S
reactant | 3-(2,4-Dimethoxy-benzyloxy)-1H-thieno[2,3-d]pyrimidine-2,4-dione | COC1=C(CON2C(NC3=C(C2=O)C=CS3)=O)C=CC(=C1)OC | C15H14N2O5S
product | 3-Hydroxy-1H-thieno[2,3-d]pyrimidine-2,4-dione | ON1C(NC2=C(C1=O)C=CS2)=O | C6H4N2O3S
